US07893056B2
To a 0° C. solution of (5S)-5-methyl-4-(phenylmethyl)-3-morpholinone (12.74 g, 62.07 mmol) in toluene (150 mL) was added Red-Al (65% w/w in PhMe, 38 mL) dropwise via addition funnel. The resulting solution was heated at 60° C. and stirred for 4 h, then cooled to 40° C. and stirred overnight. The solution was then cooled to 0° C. and quenched by dropwise addition of 1 N aq. NaOH (15 mL). The mixture was diluted with Et2O (100 mL) and washed with 1 N aq. NaOH (100 mL) followed by brine (50 mL). The organic phase was dried over anhydrous Na2SO4, filtered, concentrated in vacuo, and azeotroped with MeOH (50 mL) to provide (3S)-3-methyl-4-(phenylmethyl)morpholine (11.33 g, 95%) as a faintly pink oil. LCMS: (M+H)+: 192.2.

reactant | (5S)-5-methyl-4-(phenylmethyl)-3-morpholinone | 62.07 mmol, 12.74 g | C[C@H]1COCC(N1CC1=CC=CC=C1)=O | C12H15NO2
reactant | Red-Al | 38 mL | COCCO[AlH2-]OCCOC.[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (3S)-3-methyl-4-(phenylmethyl)morpholine | 11.33 g, 95% | C[C@@H]1N(CCOC1)CC1=CC=CC=C1 | C12H17NO
